US04596594
A mixture of 6.7 g (0.025 mole) of the R-enantiomer of trimethylsilyl-methyl 2-(4-hydroxy-phenoxy)-propionate, 0.9 g of calcium hydroxide and 10 ml of dimethylsulphoxide is heated at 40° C. A solution of 4.7 g (0.025 mole) of 2,6-dichlorobenzoxazole in 15 ml of dimethylsulphoxide is slowly added dropwise at this temperature, with stirring. The reaction mixture is subsequently stirred at 40° C. for 2 hours and at room temperature for 16 hours. Working up is then carried out by pouring the reaction mixture into water, extracting the resulting oily product with cyclohexane, washing the organic phase successively with dilute aqueous sodium hydroxide solution and water, rendering it weakly acidic with glacial acetic acid and then drying it and concentrating it under reduced pressure. 9.3 g (88.6% of theory) of the R-enantiomer of trimethylsilyl-methyl 2-{4-[(6-chloro-2-benzoxazolyl)-oxy]-phenoxy}-propionate are obtained in this manner in the form of crystals.

reactant | trimethylsilyl-methyl 2-(4-hydroxy-phenoxy)-propionate | OC1=CC=C(OC(C(=O)OC[Si](C)(C)C)C)C=C1 | C13H20O4Si
reactant | calcium hydroxide | 0.9 g | [OH-].[Ca+2].[OH-]
reactant | 2,6-dichlorobenzoxazole | 0.025 mole, 4.7 g | ClC=1OC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NO
reactant | water | O | H2O
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
product | trimethylsilyl-methyl 2-{4-[(6-chloro-2-benzoxazolyl)-oxy]-phenoxy}-propionate | ClC1=CC2=C(N=C(O2)OC2=CC=C(OC(C(=O)OC[Si](C)(C)C)C)C=C2)C=C1 | C20H22ClNO5Si
